US09216972B2
To a solution of 6-methoxy-4,4-dimethyl-3,4-dihydronaphthalen-1(2H)-one (1.0 g, 4.90 mmol) in dichloromethane (50 mL) at 0° C. was slowly added tribromoborane (1.0 M in dichloromethane) (24.5 mL, 24.5 mmol), resulting in a dark solution. The ice-bath was removed, and the reaction mixture was stirred overnight. The reaction mixture was diluted with dichloromethane (100 mL) and washed with water (2×25 mL). The aqueous layer was extracted with dichloromethane (2×25 mL), and the combined organic layers were dried over anhydrous sodium sulfate and concentrated to give a red, viscous oil. The residue was purified by flash silica gel chromatography using a mixture of ethyl acetate in hexane (5%-12.5%-20%) to give 6-hydroxy-4,4-dimethyl-3,4-dihydronaphthalen-1(2H)-one (0.299 g, 1.57 mmol, 32% yield) as an orange solid. The product had an HPLC ret. time=1.68 min. (condition A); LC/MS M+1=190.9.

reactant | 6-methoxy-4,4-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 4.90 mmol, 1.0 g | COC=1C=C2C(CCC(C2=CC1)=O)(C)C | C13H16O2
reactant | tribromoborane | 24.5 mmol, 1.0 M, 24.5 mL | BrB(Br)Br | BBr3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-hydroxy-4,4-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 1.57 mmol, 0.299 g, 32% yield | OC=1C=C2C(CCC(C2=CC1)=O)(C)C | C12H14O2
